US07501410B2
N-(1-Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-6-yl)-2-methoxy-N-methyl-acetamide:
4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one (0.5 g, 1.69 mmol) was dissolved in DMF (5 ml). To this was added NaH (60%, 0.19 g, 5.1 mmol) as a suspension in DMF (2 ml). The mixture was stirred at RT for 30 min then methoxyacetyl chloride (0.27 g, 2.5 mmol) was added dropwise and the reaction mixture was stirred at RT for 24 hours. After this time, water (10 ml) was added cautiously, the mixture was extracted with EtOAc (3×10 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum. Flash column chromatography (elution: 50% hexane, 50% EtOAc) gave the title compound (0.47 g, 76% yield) as a white solid.

reactant | 4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one | 1.69 mmol, 0.5 g | BrC1=NN(C(C2=CC(=CC=C12)NC)=O)C(C)C | C12H14BrN3O
reactant | NaH | 5.1 mmol, 0.19 g | [H-].[Na+]
reactant | methoxyacetyl chloride | 2.5 mmol, 0.27 g | COCC(=O)Cl | C3H5ClO2
reactant | water | 10 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(1-Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-6-yl)-2-methoxy-N-methyl-acetamide | 0.47 g, 76% yield | BrC1=NN(C(C2=CC(=CC=C12)N(C(COC)=O)C)=O)C(C)C | C15H18BrN3O3
